Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
none
attach
 
Pertinent Results:
DISCHARGE PHYSICAL
98.0 PO 115 / 68 L Lying 65 18 97 Ra 
GENERAL: Alert and in no apparent distress, sitting up in bed
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: Left buttocks with area of mild erythema without clear
demarcation. Slightly firmer than skin on right. Mildly tender 
on
palpation.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

ADMISSION LABS

___ 09:45PM BLOOD WBC-12.7* RBC-5.00 Hgb-15.2 Hct-46.9 
MCV-94 MCH-30.4 MCHC-32.4 RDW-13.7 RDWSD-47.0* Plt ___
___ 09:45PM BLOOD Neuts-77.8* Lymphs-13.4* Monos-7.7 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-9.84* AbsLymp-1.69 
AbsMono-0.98* AbsEos-0.06 AbsBaso-0.03
___ 10:06AM BLOOD ___ PTT-31.2 ___
___ 10:06AM BLOOD Glucose-84 UreaN-12 Creat-1.1 Na-140 
K-4.6 Cl-104 HCO3-27 AnGap-9*
___ 10:06AM BLOOD ALT-46* AST-22 AlkPhos-29* TotBili-1.0
___ 12:40AM BLOOD Lipase-24
___ 10:06AM BLOOD Calcium-9.0 Phos-2.7 Mg-1.7
___ 10:06AM BLOOD CRP-77.8*
___ 12:40AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 09:53PM BLOOD Lactate-0.7

DISCHARGE LABS

___ 07:22AM BLOOD WBC-7.9 RBC-4.65 Hgb-14.1 Hct-43.3 MCV-93 
MCH-30.3 MCHC-32.6 RDW-13.9 RDWSD-47.2* Plt ___
___ 10:06AM BLOOD Glucose-84 UreaN-12 Creat-1.1 Na-140 
K-4.6 Cl-104 HCO3-27 AnGap-9*
___ 10:06AM BLOOD ALT-46* AST-22 AlkPhos-29* TotBili-1.0
___ 10:06AM BLOOD Calcium-9.0 Phos-2.7 Mg-1.7
___ 07:22AM BLOOD Glucose-94 UreaN-10 Creat-1.2 Na-143 
K-4.1 Cl-105 HCO3-26 AnGap-12
___ 07:22AM BLOOD ALT-39 AST-19 AlkPhos-23* TotBili-0.4
___ 07:22AM BLOOD Calcium-8.7 Phos-3.0 Mg-1.8

IMAGING

CXR ___ - no acute cardiopulmonary process

Liver/gallbladder ultrasound ___ - no abdominal ultrasound

US Buttocks, soft tissue left ___ - No evidence of a
discrete fluid collection, soft tissue mass or hematoma at 
the location of the patient's pain, on this targeted exam of the
superficial tissues of the left gluteal region. 

EKG ___ - normal sinus rhythm

 
Brief Hospital Course:
#Left buttocks pain, cellulitis
Reassuringly patient does not have an abscess per ultrasound, 
though area is mildly erythematous and firm. Treated with 
antibiotics (___) and monitor for further symptoms. 
Initially treated with cefazolin 2g IV q8h and vancomycin 1000 
mg IV q8h. Improving on day of discharge, and low suspicion for 
MRSA (no purulence), so will transition to Keflex to complete 7 
day course. Treated pain with tylenol and ibuprofen prn pain. 
Counseled patient to stop injecting steroids.

#Fevers, chills
Denies current IVDU and low suspicion for endocarditis. Blood 
cultures with no growth to date.

#Transaminitis, mild elevation of ALT and AP.
#Hepatitis C
Likely related to untreated hep C. Normal liver ultrasound. 

#Chest tightness
No SOB. Likely musculoskeletal. Normal EKG. Resolved by day of 
discharge. tylenol and ibuprofen prn

___
1.4 on admission, improved to 1.2 on discharge. Should follow up 
with his PCP.

#Headache
Fioricet prn

CHRONIC:
#Prior IVDU
Tox screens negative. Social work consulted, patient declined 
any social work needs. Pt sees a therapist at ___, denies 
current drug use, has not used for 18 months and has stopped 
using by going to meetings. Lives alone, has supports, and 
works.

*Transitional issues*
Could not schedule PCP follow up on holiday but asked patient to 
schedule follow up with his PCP ___ ___ weeks to ensure 
resolution of infection, follow up on kidney function, and 
treatment of hep C.

 
Medications on Admission:
None.
 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H Duration: 7 Days 
RX *cephalexin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*24 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cellulitis
Hepatitis C

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with a skin infection in your buttocks after 
steroid injection. We evaluated for an abscess and didn't see 
one on ultrasound. We treated you with antibiotics. Please take 
the full course. Please also follow up with your PCP ___ ___ 
weeks to ensure that your symptoms have fully resolved.

We don't recommend further steroid injections as they put you at 
risk for further infections and complications.

It was a pleasure taking care of you.

Sincerely,
Your ___ team

It was a pleasure taking care of you.

Sincerely,
Your ___ team
 
Followup Instructions:
___